US08426449B2
Step 1: [3-(2-Methylaminomethyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid
Prepared according to the procedure described in Example 3, Step 2, using the following starting materials: [3-(2-formyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid and methylamine (2M in THF)

reactant | [3-(2-formyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid | C(=O)C1=C(OC=2C=C(C=CC2)CC(=O)O)C=CC(=C1)C(F)(F)F | C16H11F3O4
reactant | methylamine | 2M | CN | CH5N
product | [3-(2-Methylaminomethyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid | CNCC1=C(OC=2C=C(C=CC2)CC(=O)O)C=CC(=C1)C(F)(F)F | C17H16F3NO3
